US07527809B2
(R)-3-hydroxyoctanoyl-CoA was synthesized according to Rehm B. H. A., Kruger N., Steinbuchel A., Journal of Biological Chemistry, 273, p. 24044-24051, 1998 with slight changes as described below. Acyl-CoA synthetic enzyme (available from Sigma Co.) was dissolved in a Tris-HCl buffer (50 mM, pH 7.5) containing 2 mM ATP, 5 mM MgCl2, 2 mM coenzyme A, and 2 mM (R)-3-hydroxyoctanoate to concentration of 0.1 mU/μl. The mixture was retained in a warm bath at 37° C. and was sampled suitably to analyze progress of a reaction by HPLC. After the enzyme reaction was terminated by adding sulfuric acid to the sampled reaction solution to concentration of 0.02 N, the unreacted substrate (R)-3-hydroxyoctanoate was removed by extraction with n-heptane. The HPLC analysis employed RP18 column (nucleosil C18, 7 μm, Knauser), and elusion was conducted under a linear concentration slope of acetonitrile, using a 25 mM phosphoric acid buffer (pH 5.3) as a moving phase. A thioester compound produced through the enzymatic reaction was detected by monitoring an absorption spectrum of 200 to 500 nm using a diode array detector. (R)-3-hydroxy-5-phenylvaleryl CoA and (R)-3-hydroxy-5-(4-fluorophenyl)valeryl CoA were synthesized in a similar manner.

reactant | ATP | 2 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | MgCl2 | 5 mM | [Mg+2].[Cl-].[Cl-]
reactant | coenzyme A | 2 mM | [C@@H]1([C@H](O)[C@H](OP(=O)(O)O)[C@@H](COP(=O)(O)OP(=O)(O)OCC(C)(C)[C@@H](O)C(=O)NCCC(=O)NCCS)O1)N1C=NC=2C(N)=NC=NC12 | C21H36N7O16P3S
reactant | (R)-3-hydroxyoctanoate | 2 mM | O[C@@H](CC(=O)[O-])CCCCC
solvent | Tris-HCl | 50 mM, pH 7.5 | C(C(CO)(CO)N)O.Cl
product | (R)-3-hydroxyoctanoyl-CoA | O[C@@H](CC(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O)CCCCC | C29H50N7O18P3S
